US04694080
To a suspension of 4-hydroxy-2-methyl-3-(tetrazol-5-yl)-1,2-benzothiazine 1,1-dioxide hemihydrate (2.88 g) in pyridine (10 ml) was added dropwise benzoyl chloride (1.02 ml) at 5°-10° C. After being stirred at room temperature for 1 hour, the mixture was poured into 0.6N HCl (200 ml) with vigorous stirring. The resulting solids were collected by filtration and washed with water. The solids were dissolved in dichloromethane (100 ml), washed with water and dried over sodium sulfate to give crude 4-benzoyloxy-2-methyl-3-(tetrazol-5-yl)-1,2-benzothiazine 1,1-dioxide, 4.24 g.

reactant | 4-hydroxy-2-methyl-3-(tetrazol-5-yl)-1,2-benzothiazine 1,1-dioxide hemihydrate | 2.88 g | O.OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C2=NN=NN2.OC2=C(N(S(C1=C2C=CC=C1)(=O)=O)C)C1=NN=NN1
reactant | benzoyl chloride | 1.02 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | HCl | 0.6N, 200 ml | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-benzoyloxy-2-methyl-3-(tetrazol-5-yl)-1,2-benzothiazine 1,1-dioxide | C(C1=CC=CC=C1)(=O)OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C2=NN=NN2 | C17H13N5O4S
